US06927221B2
Ethyl 3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-carboxylate
Acetic acid (5 mL) was added to a solution of 4-mesityl-3-methyl-1H-5-pyrazoleamine (5 g, 23.22 mmol) and diethyl 2-acetylmalonate (4.7 g, 23.22 mmol) in xylene (40 mL), followed by heating under reflux for seven hours. The reaction mixture was evaporated as it was, and water was added thereto. After extracting with ethyl acetate, the organic layer was washed with an aqueous saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane), to give the title compound (3 g).

reactant | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | 4-mesityl-3-methyl-1H-5-pyrazoleamine | 23.22 mmol, 5 g | C1(=C(C(=CC(=C1)C)C)C=1C(=NNC1N)C)C | C13H17N3
reactant | diethyl 2-acetylmalonate | 23.22 mmol, 4.7 g | C(C)(=O)C(C(=O)OCC)C(=O)OCC | C9H14O5
solvent | xylene | 40 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-carboxylate | 3 g | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1NC(=C(C2=O)C(=O)OCC)C)C)C | C20H23N3O3
